Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Benadryl Decongestant
 
Attending: ___.
 
Chief Complaint:
Arms and legs "shaking like jelly" 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is an ___ with history of CKD (sIV) secondary to 
hypertension and diabetes, TAH-BSO (___) for endometrial cancer 
complicated by vesiculocutaneous fistulas s/p bilateral 
nephrostomy tubes, osteoarthritis, and depression, transferred 
from ___ with acute kidney injury.  
The patient reports that one week ago, she had a mild "GI bug" 
with a few episodes of vomiting and diarrhea. She was without 
fevers, HA, respiratory symptoms, myalgias, rash, or pain around 
nephrostomy sites. She also denies back and abdominal pain as 
well as malodorous urine. Her symptoms resolved over the course 
of 3 days, but since that time she has had decreased appetite. 
She admits that she has been taking less food and fluids by 
mouth. Over the last day, the patient noticed decreased urine 
output. This concerned her daughter and she presented to ___ ED 
where she was evaluated. Initial labs demonstrated Na 128, K 
3.1, HCO3 19, BUN 114, Cr 3.8. She was hydrated reportedly with 
1L IVF and then transferred as her PCP is at ___.  
In the ED, initial vital signs were 98.3 75 126/85 14 95% 4L. 
Labs demonstrated Na 130, K 3.0, HCO3 19, BUN 113, Cr 3.5. A UA 
demonstrated small blood, nitrite positive, large leukesterase, 
protein 30, RBC 8, WBC 18, moderate bacteria. An EKG was 
irregular with difficult to assess P-waves.  
Upon arrival to the floor, initial vital signs were 97.4 141/64 
82 18 98RA. The patient corroborated the above history. She was 
without additional complaint.  

 
Past Medical History:
1.  Diabetes mellitus type 2 with diabetic nephropathy
2.  Anemia
3.  Depression
4.  Hypertension
5.  Urinary incontinence
6.  Low back pain
7.  Osteoarthritis
8.  Endometrial Cancer- s/p Total abdominal hysterectomy with 
bilateral salpingo-oophorectomy in ___, c/b urinary 
incontinence, previously self cathing, then developed 
vesiculocutaneous fistulas and given bilateral nephrostomy 
tubes. 
 
Social History:
___
Family History:
Cancer in brother ("abdomen"), daughter (thyroid).  DM in 
sister.
 
Physical Exam:
On admission:
Vitals: 97.4 141/64 82 18 98RA  
General: well-appearing elderly female in NAD  
HEENT: NCAT, anicteric sclerae, MMM, OP clear  
Neck: Supple, JVP not elevated, no LAD  
Lungs: Generally CTA b/l without wheeze or rhonchi  
Cor: IrRR, (+)S1/S2, no murmurs, rubs, gallops  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: Nephrostomy  
Extrem: Warm, well perfused, ___ edema R>L  
MSK: No CVAT  
Neuro: AOx3, mentating well, CN II-XII grossly intact, motor 
function grossly normal

Discharge exam:
General: well-appearing elderly female in NAD  
HEENT: NCAT, anicteric sclerae, MMM, OP clear  
Neck: Supple, JVP not elevated, no LAD  
Lungs: Generally CTA b/l without wheeze or rhonchi  
Cor: IrRR, (+)S1/S2, no murmurs, rubs, gallops  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: Nephrostomy  
Extrem: Warm, well perfused, ___ edema R>L  
MSK: No CVAT  
Neuro: AOx3, mentating well, CN II-XII grossly intact, motor 
function grossly normal

 
Pertinent Results:
Admission Labs:
___ 06:50AM BLOOD WBC-7.4 RBC-2.94* Hgb-9.2* Hct-26.4*# 
MCV-90 MCH-31.2 MCHC-34.8 RDW-15.1 Plt ___
___ 06:30PM BLOOD Glucose-100 UreaN-113* Creat-3.5* Na-130* 
K-3.0* Cl-95* HCO3-19* AnGap-19
___ 06:30PM BLOOD Calcium-8.7 Phos-4.5 Mg-2.1
 
Anemia work up labs:
___ 06:50AM BLOOD LD(LDH)-122 TotBili-0.2
___ 06:50AM BLOOD Albumin-3.0* Calcium-8.6 Phos-5.0* Mg-2.2 
Iron-21*
___ 06:50AM BLOOD calTIBC-140* Ferritn-857* TRF-108*
 
A.Fib Work up labs:
___ 06:50AM BLOOD TSH-1.4

Discharge Labs:
___ 07:20AM BLOOD WBC-7.9 RBC-2.93* Hgb-8.7* Hct-26.8* 
MCV-91 MCH-29.7 MCHC-32.6 RDW-14.7 Plt ___
___ 07:20AM BLOOD Plt ___
___ 07:20AM BLOOD Glucose-135* UreaN-92* Creat-2.6* Na-139 
K-4.6 Cl-105 HCO3-23 AnGap-16

EKGs:
___: Atrial fibrillation. Poor R wave progression. Compared 
to tracing #1 no diagnostic interim change.
___
___

___: Atrial fibrillation. Poor R wave progression. Cannot 
exclude prior anterior myocardial infarction. Compared to 
tracing #2 no change.
___
___
 
TTE:
The left atrium is moderately dilated. The right atrium is 
moderately dilated. Left ventricular wall thicknesses are 
normal. The left ventricular cavity size is normal. Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. Overall left ventricular systolic 
function is normal (LVEF 70%). There is considerable 
beat-to-beat variability of the left ventricular ejection 
fraction due to an irregular rhythm/premature beats. The right 
ventricular free wall is hypertrophied. The right ventricular 
cavity is mildly dilated with borderline normal free wall 
function. The aortic valve leaflets (3) are mildly thickened. 
There is mild aortic valve stenosis. No aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. There is 
severe mitral annular calcification. There is moderate 
thickening of the mitral valve chordae. There is mild functional 
mitral stenosis (mean gradient 5 mmHg during normal diastolic 
filling periods, but greater than 12 mmHg during short diastolic 
filling periods) due to mitral annular calcification. An 
eccentric, posteriorly directed jet of (at least) moderate (2+) 
mitral regurgitation is seen. [Due to acoustic shadowing, the 
severity of mitral regurgitation may be significantly 
UNDERestimated.] Due to the eccentric nature of the regurgitant 
jet, its severity may be significantly underestimated (Coanda 
effect). Moderate [2+] tricuspid regurgitation is seen (may be 
significantly underestimated due to signal attenuation). There 
is moderate pulmonary artery systolic hypertension. There is no 
pericardial effusion. 
 
Microbiology:
UCx x2: Negative (final)

 
Brief Hospital Course:
___ F with history of CKD and bilateral nephrostomies related 
to vesiculo-enteric fisutals s/p TAH-BSO for endometrial cancer 
now admitted with Acute Renal Failure likely pre-renal etiology. 
 
    
# Acute Renal Failure: ARF on chronic renal failure, admitted 
with Cr of 3.8 (OSH) from baseline 2.5-3.0. Elevated BUN out of 
proportion to Cr in setting of recent GI illness with poor PO 
intake suggested presentation most likely pre-renal in etiology. 
Received IVFs with improvement in Cr to baseline at time of 
discharge (2.6). UA was dirty, but in setting of bilateral 
nephrostomy tubes and negative urine culture, did not treat. 
Lisinopril, ethacrynic acid, metolazone and allopurinol were 
held on admission. These were held at discharge and she should 
follow up with her PCP within one week of discharge from rehab 
to evaluate restarting these medications. Her PCP is Dr ___ 
___ telephone ___.  
        
# Anion Gap acidosis: New anion gap of 16 on admission with 
normal pH on VBG. Likely represented uremia which improved after 
IVF rehydration with resolution in gap. Normal pH suggests 
concominant contraction alkalosis given high suspicion for 
hypovolemia. Anion gap acidosis resolved.
        
# Hyponatremia: Hypovolumic, hyponatremia given pre-renal 
azotemia and poor PO intake in setting of continue diuretic use. 
Na of 128 at OSH improved to 133 after IVFs confirming this 
diagnosis. Sodium remained normal following IV fluids.   
  
# Atrial fibrillation: New onset, acute A.Fib without history of 
afib in past. Last EKG in ___ was sinus rhythm. Rate controlled 
throughout admission. Echo with AS and MR. ___ normal. Given 
CHADS2 of 3, patient started on coumadin without bridge and will 
need to be followed-up in ___ clinic as outpatient, 
goal INR ___. Started on metoprolol prior to discharge for 
ongoing rate control. Amlodipine stopped in favor of metoprolol 
for rate control given patient without significant hypertension 
during this admission. Discharged on metoprolol 25mg BID, this 
should be titrated as blood pressure tolerates with goal HR<90, 
>60. She should have an INR check on ___, with goal INR ___. 

         
# Anemia: Chronic normocytic anemia with baseline Hct of ___ 
admitted with acute drop in Hct to 26 of unclear etiology. 
Unlikely to be acute blood loss anemia due to hemodynamic 
stability and lack of symptoms. Possible related to worsening 
underlying renal disease and last Hct was over 3 months prior so 
maybe slowly downtrending due to worsening renal function. 
Hemolysis labs negative. Stool guaiac negative. Iron studies 
revealed iron deficiency and patient was started on iron 
supplementation which was continued at discharge. 
    
# Diabetes mellitus: Chronic, non-insulin dependent Diabetes 
Mellitus Type II complicated by diabetic nephropathy. Held 
Glipizide while inpatient and maintained on HISS.   
     
Transitional Issues:
# ___ clinic follow-up for management of anticoagulation in 
setting of new onset atrial fibrillation (goal INR ___ after 
discharge from rehab. ___ Phone Number is 
___. 
# CODE: DNR/DNI  
# CONTACT: ___ (daughter) ___  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Amlodipine 10 mg PO HS 
3. Citalopram 10 mg PO BID 
4. Ethacrynic Acid 25 mg PO DAILY 
5. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
6. GlipiZIDE 5 mg PO DAILY 
7. Lisinopril 40 mg PO DAILY 
8. Metolazone 5 mg PO DAILY 
9. Mirtazapine 7.5 mg PO HS 
10. Ferrous Sulfate 650 mg PO QAM 
11. Ferrous Sulfate 325 mg PO HS 
12. Acetaminophen 500 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Acetaminophen 500 mg PO Q6H:PRN pain 
2. Citalopram 10 mg PO BID 
3. Ferrous Sulfate 650 mg PO QAM 
4. Ferrous Sulfate 325 mg PO HS 
5. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
6. Mirtazapine 7.5 mg PO HS 
7. Warfarin 5 mg PO DAILY16 
8. Metoprolol Tartrate 25 mg PO BID 
titrate as blood pressure tolerates, goal heart rate above 60, 
less than 90 
9. GlipiZIDE 5 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Active:
- ARF
- Hyponatremia
- Atrial Fibrillation
- Anemia
 
Chronic:
- Diabetes Mellitus
- Chronic Renal Failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
 
It was a pleasure treating you during this hospitalization. You 
were admitted for acute renal failure and hyponatremia. You were 
found to be dehydrated and after IV fluids your symptoms and lab 
abnormalities improved to baseline. You were also found to have 
worsening anemia, work up for this revealed that you were iron 
deficient and you were started on iron supplementation. You were 
also found to have a new cardiac arrythmia called atrial 
fibrillation and you were started on coumadin to prevent blood 
clots and stroke and metoprolol to control your heart rate. It 
was a pleasure taking care of you!
Your ___ Team
 
Followup Instructions:
___